Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right foot pain, ulcer 
 
Major Surgical or Invasive Procedure:
Transesophageal Echocardiogram
Right Upper Extremity Midline Catheter Placement

 
History of Present Illness:
___ M h/o poorly controlled DM2 c/b neuropathy, nephropathy, 
CKDIII, who presents with a persistent R foot ulcer and 
complaints of radiating pain up the right leg. The patient has 
had multiple recent visits with his outpatient podiatrist for 
foot ulcers in the last few months. On ___, he saw his 
podiatrist with R foot pain and ulcer, and they debrided to the 
subcutaneous and found that Xrays were not indicative of any 
bony involvement. At that time, he was prescribed Naproxen 500 
mg bid for the pain, which he has been taking as prescribed 
since that admission. The patient otherwise denies f/c, chest 
pain, shortness of breath, n/v/d, abdominal pain. He does 
endorse a few weeks of loose stools that he relates to starting 
the naproxen.  
 
 In the ___, initial vitals were: 98.2 117 107/64 20 100% RA  
 Exam notable for: superficial ulceration to the plantar aspect 
of the right foot. It measures 4 mm x 4 mm. 1mm deep. No signs 
of infection with some granularity noted. The right ankle and 
foot demonstrates mild edema and venous stasis changes, no 
increased warmth. No fluctuance noted.  
 Labs notable for: WBC 24 (91%Neutrophils), sodium 130, K 4.5, 
Cl 94, bicarb 13 (AG 23), BUN 64, Creatinine 5.7, glucose 225. 
H/H 9.___.3, plt 635  
 Imaging notable for: ankle xray no evidence of bony 
destruction, foot and chest xray pending.  
 Patient was given: oxycodone-acetaminophen, cipro 400 mg, 2L 
NS, Vanco 1g.  
 Podiatry consulted and recommended: admit to medicine for 
further workup, no urgent surgical intervention, wound 
debridement in ___ follow as consult service.   
 On the floor, the patient reports that he is feeling much 
better overall since coming in. His initial complaint of leg 
pain was improved with one dose of Percocet. He currently denies 
any fevers/chills, abdominal pain, ongoing diarrhea, n/v, leg 
pain.  
 
 ROS:  
 (+/-) Per HPI 
 
Past Medical History:
PMH:
- DM2 on insulin, uncontrolled, with diabetic neuropathy, 
nephropathy  
- CKD stage 3  
- Right diabetic foot ulcer with history of sepsis ___  
- Anemia  
- Hypertension  
- Hypercholesterolemia  
- s/p Appendectomy 

Allergies: Penicillin
 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAM
===============================
 Vital Signs: 97.6 134/71 108 18 100%RA  
 General: Alert, oriented, no acute distress, lying comfortably 
in bed  
 HEENT: Sclera anicteric, MMM, oropharynx clear,  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Extremities: Warm, well perfused, 2+ pulses b/l. L foot 
slightly cooler than right but still with strong pulses. R leg 
edematous to the mid calf. Clean edged 1 cm ulcer on dorsum of R 
foot  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.

Discharge:
VS - 98.1 134/76 81 16 99% RA
General: NAD, alert to interview, oriented, appears comfortable
HEENT: EOMI
Neck: no JVD, no LAD  
CV: RRR, normal S1 and S2, no m/r/g  
Lungs: CTAB, no crackles or wheezes, breathing comfortably  
Abdomen: soft, nontender, nondistended, bowel sounds present, no 
rebound tenderness or guarding, no HSM appreciated  
GU: deferred  
Ext: warm and well perfused, R foot wrapped in gauze
Neuro: grossly normal  

 
Pertinent Results:
===========
ADMISSION
===========

CBC w/ Diff
___ 12:18AM BLOOD WBC-24.0* RBC-3.42* Hgb-9.1* Hct-28.3* 
MCV-83 MCH-26.6 MCHC-32.2 RDW-15.1 RDWSD-45.9 Plt ___
___ 12:18AM BLOOD Neuts-91* Bands-2 Lymphs-2* Monos-5 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-22.32* AbsLymp-0.48* 
AbsMono-1.20* AbsEos-0.00* AbsBaso-0.00*
___ 12:18AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL

Lytes
___ 12:18AM BLOOD Glucose-225* UreaN-64* Creat-5.7*# 
Na-130* K-5.2* Cl-94* HCO3-13* AnGap-28*
___ 04:56AM BLOOD Calcium-8.8 Phos-4.5 Mg-1.5* Iron-9*

LFTs
___ 04:56AM BLOOD ALT-60* AST-39 AlkPhos-338* TotBili-0.2

Iron
___ 04:56AM BLOOD calTIBC-126* Hapto-414* Ferritn-1105* 
TRF-97*

Inflammatory
___ 04:56AM BLOOD CRP->300*
___ 04:56AM BLOOD ESR-51*

Acid/Base
___ 05:50AM BLOOD ___ pO2-97 pCO2-34* pH-7.23* 
calTCO2-15* Base XS=-12
___ 02:45AM BLOOD Lactate-1.0

Urinalysis, Tox, Lytes
___ 09:11AM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:11AM URINE Blood-NEG Nitrite-NEG Protein-300 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:11AM URINE Creat-79 Na-44
___ 09:11AM URINE Osmolal-345

Microbiology
___ Blood Culture: VIRIDANS STREPTOCOCCI. Sensitivities: 
MIC expressed in MCG/ML 
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------     2 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S
___ Urine Culture: < 10,000 organisms/mL
___ C Difficile PCR Amplification: negative

Studies:
___ Foot XR: Plantar soft tissue ulceration the level of 
the MTP joint.  No bony destruction to suggest radiographic 
signs for acute osteomyelitis. 
___ CXR: No evidence of pneumonia.
___ Arterial US w/ Doppler: No evidence of flow-limiting 
stenosis in either lower extremity
___ TTE: No discrete vegetation or pathologic valvular 
regurgitation identified. Mild symmetric left ventricular 
hypertrophy with preserved regional and global biventricular 
systolic function. Increased PCWP. Aortic valve sclerosis.
___ EKG: Sinus tachycardia with relatively long P-R 
interval for the rate. Otherwise, unremarkable ECG that is 
unchanged from the previous.
___ TEE: No definite masses or vegetations identified. No 
pathological valvular flow.  
___ CT A/P: Right-sided inguinal and pelvic lymphadenopathy 
of unknown etiology. No evidence of intra-abdominal infection is 
identified. 
___ Hip XR: Two views of the right hip are provided.  Mild 
to moderate degenerative changes at the level of the hip joint.  
No evidence of structural alterations suggestive of 
osteomyelitis. 

___ 10:01 am JOINT FLUID      Source: R hip. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

============
DISCHARGE
============

___ 06:25AM BLOOD Ret Aut-2.2* Abs Ret-0.06
___ 08:05AM BLOOD Glucose-152* UreaN-48* Creat-2.9* Na-133 
K-5.2* Cl-98 HCO3-25 AnGap-15
___ 06:25AM BLOOD calTIBC-169* Ferritn-629* TRF-130*
___ 06:25AM BLOOD PTH-89*
___ 05:09AM BLOOD CRP-119.1*
___ 07:50AM BLOOD WBC-13.0* RBC-2.82* Hgb-7.6* Hct-24.2* 
MCV-86 MCH-27.0 MCHC-31.4* RDW-14.6 RDWSD-45.0 Plt ___
___ 07:50AM BLOOD Glucose-115* UreaN-40* Creat-3.3* Na-136 
K-5.1 Cl-99 HCO3-22 AnGap-20
___ 07:50AM BLOOD Calcium-9.1 Phos-5.4* Mg-1.___ yo M w/ history of Type 2 DM complicated by nephropathy, 
neuropathy, CKDIII, and multiple hospitalizations presents to 
___ with persistent RLE pain, right foot ulcer, and malaise 
admitted with significant leukocytosis, tachycardia, AGMA, and 
acute on chronic renal failure concerning for sepsis secondary 
to bacteremia on ___.

ACTIVE ISSUES:
================
# Sepsis secondary to Strep Viridans Bacteremia: 
Patient presented with increased lower extremity pain, 
leukocytosis to 24,000, tachycardia, malaise, and severe 
metabolic acidosis. He was treated with Vancomycin 1000mg IV 
q48hr, MetRONIDAZOLE 500mg IV q8hr, Ciprofloxacin 400mg IV q12hr 
from ___ to ___. Blood cultures revealed Strep Viridans 
Bacteremia, broad spectrum antibiotics were discontinued and 
patient was started on CefTRIAXone 2 gram IV q24hr. Foot XR did 
not indicate osteomyelitis secondary to foot ulcer. No evidence 
of cellulitis on exam. TTE and TEE showed no valvular 
vegetations as source for bacteremia. CT abdomen/pelvis shows no 
clear source of infection. Hip XR shows no evidence of 
osteomyelitis. Right hip joint fluid analysis (___) 
demonstrates ~30,000 WBCs, ___ RBCs, 94% PMNs, no bacteria on 
gram stain, no culture growth. Given that cultures can be 
negative after antibiotic treatment, hip is likely source of 
infection. Hip joint washout deferred for 4-week course of 
ceftriaxone ___. Symptoms have improved and on discharge 
WBC 11.9.

# ___ on CKD: 
Patient had severely increased creatinine of 5.7 from baseline 
of ___ on admission. Etiology undetermined, but there is likely 
a prerenal component from poor perfusion in the setting of poor 
PO intake and sepsis. Prolonged poor perfusion could have 
resulted in ATN. Additionally, the patient was prescribed 
standing Naproxen 500 mg BID for the two weeks prior to 
admission, which may have caused AIN. Patient was given 2L 
normal saline for fluid resuscitation, home Labetalol 100 mg PO 
BID was restarted to restore renal perfusion, Naproxen was held 
during the hospital stay, and patient received sodium bicarb 
with improvements in creatinine. He was placed on a low K low 
phosphate diet. Kidney function returned to baseline on 
discharge.

# Diarrhea:
Patient began to experience several watery bowel movements daily 
while hospitalized. Patient had been on Senna/Colace PRN and 
Oxycodone for pain. He had also been on broad spectrum 
antibiotics for 3 days. C diff negative. CT showed right-sided 
inguinal and pelvic lymphadenopathy of unknown etiology. Last 
colonoscopy ___ years ago, normal. Stool cultures for various 
infectious causes were unrevealing. Cause of diarrhea is likely 
broad spectrum antibiotics and ceftriaxone. Diarrhea resolved 
with Loperamide 2 mg PO TID. 

# Right hip pain: 
On admission, patient describes muscular pain around his right 
groin, as if he pulled a muscle, that did not improve 
substantially despite treatment with Oxycodone and Tylenol. The 
pain is worse when he moves the RLE, and consequently prevents 
him from ambulating. Hip XR demonstrates OA changes without 
evidence of osteomyelitis. CT abdomen/pelvis demonstrates 
inguinal hernia and lymphadenopathy. Joint hip aspiration 
demonstrates large WBC with PMN predominance, likely infectious. 
Less likely inflammatory given monoarticular joint pain and lack 
of associated disease in medical history. Treatment as per 
sepsis above.

# Anemia: 
Patient has a history of anemia. Iron studies demonstrated low 
iron with elevated ferritin and low transferrin concerning for 
anemia of chronic disease or acute inflammatory suppression. CKD 
also contributing. Hgb dropped below 7.0 several times, blood 
transfusion given and prematurely discontinued due to reaction 
during first transfusion. During subsequent transfusions, 
patient was given Benadryl prior and experienced no 
complications. Current Hgb 7.6. 

# Tranfusion Reaction:
Patient had a transfusion reaction related to blood transfusion 
for anemia on ___. He received most of his transfusion prior to 
the reaction. Tranfusion discontinued and patient was treated 
with Benadryl. Likely febrile nonhemolytic reaction, given 
symptoms of tremulousness, fever, tachycardia, and hypertension 
with lack of hematuria, back pain, and otherwise negative ROS to 
support hemolytic reaction. Hemolysis labs did not show evidence 
of hemolysis. Patient received Benadryl prior to subsequent 
transfusions and was asymptomatic.

# Anion gap metabolic acidosis: 
Patient had an anion gap of 23 despite a normal lactate on 
admission with delta/delta 1.2 indicating pure anion gap 
metabolic acidosis. Cause is likely multifactorial given history 
of CKD, ___ on admission, and diarrhea while hospitalized. He 
was treated with Sodium bicarb. Metabolic acidosis resolved by 
discharge.

# Tachycardia:
Initially presented with tachycardia, likely in setting of 
ongoing pain, sepsis, and antihypertensive home medication hold 
(amlodipine, Labetalol) for suspected pre-renal ___. S1Q3T3 
pattern seen on EKG, however this pattern is consistent with 
prior EKGs. Old EKG's show patient is typically in sinus 
tachycardia. We restarted home Labetalol and amlodipine with 
resolution of his tachycardia. 

# Right leg pain/swelling: 
Patient complains of RLE pain on admission partially reminiscent 
of diabetic neuropathic foot pain, but also with new "muscular" 
groin pain. US w/ Doppler shows no evidence of DVT or arterial 
stenosis/hypoperfusion. Pain likely due to right foot ulcer or 
DM neuropathy. We treated him with Oxycodone ___ mg q4hr prn 
and Tylenol ___ mg po q8hr for pain with improvement in his 
pain from admission. He was resistant to a trial of Gabapentin.

# Hyponatremia: 
Patient was hyponatremic on admission. Etiology is likely 
multifactorial. Extra-renal causes are possible in the setting 
of poor PO intake. Urine lytes indicate inadequate reabsorption 
of sodium given his hyponatremic state possibly due to advanced 
renal failure and inability of the urine to appropriately 
re-uptake sodium. Pain causing SIADH may have contributed, 
though this is less likely given his improved pain control. 
Hyponatremia has resolved on discharge.

# Type 2 DM c/b neuropathy and nephropathy: 
Patient was hyperglycemic on presentation. He was treated with 
Glargine and Humalog. Continued home aspirin and atorvastatin 
while hospitalized.

# Hypertension: 
Home amlodipine and Labetalol were held on admission with 
concerns for ___ secondary to hypoperfusion. Patient was 
tachycardic on presentation, and remained tachycardic despite 
treatment of sepsis. We restarted home Labetalol and amlodipine 
with resolution of his tachycardia. 
  
======================
TRANSITIONAL ISSUES: 
======================
- Continue ceftriaxone 2g q24 ___
- Please obtain weekly CBC with differential, BUN, Cr, AST, ALT, 
Total Bili, ALK PHOS, ESR, CRP. Please send results to ID at 
___ ATTN: ___ CLINIC - FAX: ___
- Patient discharged with follow-up with nephrologist Dr ___ 
___ on ___ at 9:45am, please ensure f/u
- Recommend outpatient colonoscopy recommended to evaluate for 
occult bleed contributing to anemia. 
- Consider starting lisinopril and vitamin D by outpatient 
nephrologist for BP control and CKD optimization
- Consider starting lisinopril by outpatient nephrologist for BP 
control and CKD optimization
- Code Status: Full
- CONTACT: HCP ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Glargine 46 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
5. Naproxen 500 mg PO Q12H 
6. Sildenafil 20 mg PO DAILY:PRN sexual activity 
7. Labetalol 100 mg PO BID
 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn  
2.  CefTRIAXone 2 gm IV Q 24H  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  HydrOXYzine 25 mg PO Q4H:PRN anxiety   
5.  LOPERamide 2 mg PO QID diarrhea  
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth q4 Disp #*30 Capsule 
Refills:*0 
7.  Vitamin D ___ UNIT PO DAILY  
8.  Glargine 4 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
9.  amLODIPine 5 mg PO DAILY  
10.  Aspirin 81 mg PO DAILY  
11.  Atorvastatin 20 mg PO QPM  
12.  Labetalol 100 mg PO BID  
13.  Sildenafil 20 mg PO DAILY:PRN sexual activity  
14.Outpatient Lab Work
ICD 10 ___
Please obtain WEEKLY: CBC with differential, BUN, Cr, AST, ALT, 
Total Bili, ALK PHOS, ESR, CRP
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Sepsis secondary to Streptococcus Viridans Bacteremia
R septic hip
Anemia
Chronic kidney disease

Secondary:
Diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your time at ___.

Why was I here?
- You had a whole body infection in your bloodstream (sepsis)
- You had damage to your kidneys possibly caused by a few 
things, including the infection, the Naproxen, and not 
eating/drinking enough

What happened while I was here?
- We treated you with antibiotics for your infection
- We searched for an infection source by examining your heart 
with ultrasound, your foot with an X-ray, your abdomen and 
pelvis with CT scan, and your hip with fluid aspiration. We 
think the hip was the source of your infection
- We gave you fluid and medications to to help your kidneys. We 
also stopped your Naproxen and changed you to Tylenol to help 
your kidneys. Your kidneys are back to your normal baseline
- We gave you blood transfusions since your blood had low red 
blood cells
- We gave you oxycodone and Tylenol for your foot pain

What should I do?
- It is VERY IMPORTANT that you FINISH your course of 
antibiotics. If not, the infection could come back and put you 
in the hospital again
- Stay well hydrated and control your blood sugars with an 
appropriate diet
- Continue to take your medications as prescribed
- Follow up with your outpatient providers

___ wish you good health!

Your ___ Medicine Team

 
Followup Instructions:
___